US07582640B2
Synthesis of 5-methoxy-4,6-dihydroxy-pyrimidine
5 g (6.2 mmoles) of formamidine hydrochloride is added at 0° C. and in small quantities into a single-necked flask containing 30 ml of absolute ethanol and 90 ml of a solution of sodium ethylate at a concentration of 1.7 mol/l in ethanol. Stirring is maintained at ambient temperature for about twenty minutes, then 8.5 ml of dimethyl methoxymalonate is added dropwise. Stirring is maintained for 16 hours. The reaction mixture is then acidified with pure acetic acid to a pH between 4 and 5, then concentrated to dryness in the presence of cyclohexane. After impasting the crude product obtained is chromatographed on silicagel eluting with a mixture of methylene chloride-methanol (85-15)and 2% water-acetic acid (1-1). 9.5 g of the expected product is obtained containing a small quantity of sodium acetate salts.

reactant | formamidine hydrochloride | 6.2 mmoles, 5 g | Cl.C(=N)N
reactant | sodium ethylate | CC[O-].[Na+]
reactant | dimethyl methoxymalonate | 8.5 ml | COC(C(=O)OC)C(=O)OC | C6H10O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-methoxy-4,6-dihydroxy-pyrimidine | 9.5 g | COC=1C(=NC=NC1O)O | C5H6N2O3
